US07153870B2
2-Amino-1-(3-ethoxy-2,3-dioxopropyl)pyridinium bromide
Ethyl bromopyruvate (51.9 g, 266 mmol) was added dropwise to a solution of 2-aminopyridine (25 g, 266 mmol) in ethylene glycol dimethyl ether (270 mL), and the reaction then stirred at room temperature for 1 hour. The resulting precipitate was filtered off, the solid washed with ether and dried to afford the title compound as a pale yellow solid, 71.9 g.

reactant | Ethyl bromopyruvate | 266 mmol, 51.9 g | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | 2-aminopyridine | 266 mmol, 25 g | NC1=NC=CC=C1 | C5H6N2
solvent | ethylene glycol dimethyl ether | 270 mL | COCCOC | C4H10O2
product | 2-Amino-1-(3-ethoxy-2,3-dioxopropyl)pyridinium bromide | [Br-].NC1=[N+](C=CC=C1)CC(C(=O)OCC)=O | InChI=1S/C10H12N2O3.BrH/c1-2-15-10(14)8(13)7-12-6-4-3-5-9(12)11;/h3-6,11H,2,7H2,1H3;1H
